US09388189B2
1-(2-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea
1-(5-Bromo-2-hydroxyphenyl)urea (300 mg, 1.30 mmol) was treated with bis(pinacolato)diboron (430 mg, 1.69 mmol), potassium acetate (382 mg, 2.99 mmol) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (318 mg, 0.39 mmol) according to the method described in Preparation 16. The residue was purified by reverse phase using SP1® Purification System to give 38 mg (35% yield) of the title compound as a solid. Purity 82%.

reactant | 1-(5-Bromo-2-hydroxyphenyl)urea | 1.30 mmol, 300 mg | BrC=1C=CC(=C(C1)NC(=O)N)O | C7H7BrN2O2
reactant | bis(pinacolato)diboron | 1.69 mmol, 430 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.99 mmol, 382 mg | C(C)(=O)[O-].[K+]
product | 1-(2-Hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)urea | 38 mg, 35% yield | OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)NC(=O)N | C13H19BN2O4
